US05599816
441a. 5-aminooctahydroindole
A 1.0 g sample of 5-aminoindole was hydrogenated at 4 atm H2 in 50 mL of acetic acid over 2 g of Pt2O at room temperature for 90 hours. The solution was filtered, and the solvent was removed.

reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-aminooctahydroindole | NC1CC2CCNC2CC1 | C8H16N2
